US04460579
Chloro(6-phthalimidohexyl)phosphinic acid, ethyl ester and (R)-dihydro-5-amino-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester are reacted according to the procedure of Example 1(f) to give (R)-dihydro-5-[[ethoxy(6-phthalimidohexyl)phosphinyl]amino]-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester.

reactant | Chloro(6-phthalimidohexyl)phosphinic acid, ethyl ester | ClP(OCC)(=O)CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C16H21ClNO4P
reactant | (R)-dihydro-5-amino-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester | NC1C(N([C@H](SC1)C1=CC=CC=C1)CC(=O)OCC)=O | C14H18N2O3S
product | (R)-dihydro-5-[[ethoxy(6-phthalimidohexyl)phosphinyl]amino]-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester | C(C)OP(=O)(CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)NC2C(N([C@H](SC2)C2=CC=CC=C2)CC(=O)OCC)=O | C30H38N3O7PS
